US04814337
In 50 ml of formic acid, a reaction of 10.0 g of 2,4-dichloro-5-fluoropyrimidine and 5.8 g of potassium thiocyanate was conducted at room temperature (20° C.) for 5 hours in a similar manner as Synthesis Example 1. Then, the reaction mixture was treated in a similar procedure as Synthesis Example 1, there was obtained a 68.0% yield of 2-chloro-5-fluoro-4-thiocyanopyrimidine, m.p. 103°-104° C.

reactant | 2,4-dichloro-5-fluoropyrimidine | 10.0 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | potassium thiocyanate | 5.8 g | [S-]C#N.[K+]
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 2-chloro-5-fluoro-4-thiocyanopyrimidine | 68.0% yield | ClC1=NC=C(C(=N1)SC#N)F | C5HClFN3S
